US07157464B2
Synthesis of 1-(4-Methanesulfonyl-phenyl)-piperazine
Piperazine (0.98 g, 11.5 mmol), Pd(II)acetate (0.017 g), sodium t-butoxide (0.37 g, 4.2 mmol) and BINAP (0.049 g) were stirred at room temperature in 10 mL dry toluene for 15 min. 1-Bromo-4-methanesulfonyl-benzene (0.9 g, 3.8 mmol) in 10 mL dry toluene was added into the reaction mixture. Then the reaction mixture was refluxed at 110° C. for 20 hrs. The reaction mixture was filtered through a celite bed and washed with toluene. The toluene was concentrated and the reaction mixture was taken in ethyl acetate and extracted with 1.5 (N) HCl solution three times. The combined aqueous layers were washed with diethyl ether. The aqueous layer was neutralized with 10% aqueous sodium hydroxide solution and then extracted with ethyl acetate three times. The combined ethyl acetate layers were washed with water and saturated brine solution, dried over anhydrous sodium sulfate, concentrated and chromatographed (9/1-CHCl3/MeOH) to afford the product.

reactant | Piperazine | 11.5 mmol, 0.98 g | N1CCNCC1 | C4H10N2
reactant | sodium t-butoxide | 4.2 mmol, 0.37 g | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.049 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 1-Bromo-4-methanesulfonyl-benzene | 3.8 mmol, 0.9 g | BrC1=CC=C(C=C1)S(=O)(=O)C | C7H7BrO2S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Methanesulfonyl-phenyl)-piperazine | CS(=O)(=O)C1=CC=C(C=C1)N1CCNCC1 | C11H16N2O2S
